US05171851
Preparation of 2-amino-3-methyl-5-(4-methylimidazol-1-yl)benzaldehyde
To a solution of 2-amino-3-cyano-5-(4-methylimidazol-1-yl)toluene (166 mg) in tetrahydrofuran (2.6 ml) was added 1.5M diisobutylaluminium hydride (1.1 ml) at 0° C. and the mixture was stirred at 40° C. for 6 hours. After the reaction was completed, 10 ml of 3N hydrogen chloride solution was added to the reaction mixture. The whole mixture was stirred for 1 hour. The mixture was bacidified with saturated sodium bicarbonate solution and was extracted with chloroform. The extract was dried with Na2SO4 and solvent was distilled to give 63 mg (38%) of the title compound.

reactant | 2-amino-3-cyano-5-(4-methylimidazol-1-yl)toluene | 166 mg | NC1=C(C=C(C=C1C#N)N1C=NC(=C1)C)C | C12H12N4
reactant | diisobutylaluminium hydride | 1.5M, 1.1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrogen chloride | 3N, 10 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2.6 ml | O1CCCC1 | C4H8O
product | 2-amino-3-methyl-5-(4-methylimidazol-1-yl)benzaldehyde | 63 mg, 38% | NC1=C(C=O)C=C(C=C1C)N1C=NC(=C1)C | C12H13N3O
